US07109226B2
Synthesis of tert-Butyl 2-[2-(aminocarbonylmethyl)phenoxy]-2-methylpropionate
2-Hydroxyphenyl acetamide (1.2 g, 7.93 mmol) was dissolved in acetonitrile (10 mL), and potassium carbonate (5.5 g, 39.6 mmol) was added to the solution. Subsequently, to the mixture, tert-butyl 2-bromoisobutyrate (8.9 g, 39.6 mmol) was added, followed by stirring at 80° C. After completion of reaction, water was added to the mixture. The resultant mixture was extracted with ethyl acetate, followed by washing the organic layer with water. The mixture was subjected to drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (chloroform/methanol=40/1), whereby the target compound was obtained (1.4 g, 4.87 mmol, 61%).

reactant | 2-Hydroxyphenyl acetamide | 7.93 mmol, 1.2 g | OC1=C(C=CC=C1)CC(=O)N | C8H9NO2
reactant | potassium carbonate | 39.6 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 2-bromoisobutyrate | 39.6 mmol, 8.9 g | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-Butyl 2-[2-(aminocarbonylmethyl)phenoxy]-2-methylpropionate | NC(=O)CC1=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC=C1 | C16H23NO4
